Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
iodine / Penicillins / Cephalosporins
 
Attending: ___
 
Chief Complaint:
abnormal lfts  

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ yo M with history of type 1 diabetes since age 
___ leading to end-stage renal disease, s/p simultaneous 
kidney-pancreas transplant ___ c/b cellular and antibody 
mediated rejection s/p ATG, IV steroids and an increase in 
immunosuppression with improvement referred in from clinic with 
elevated lipase/amylase and LFTs.  
 Per OMR, his postoperative course has been remarkable for:  
 1. ___ with extensive negative infectious workup and  

 two liver biopsies consistent with drug-related injury. He was 
taken off dapsone and Bactrim and his LFTs normalized for short 
period of time.  
 2. BK viruria and BK viremia, latter is now resolved.  
 3. Elevated lipase and amylase levels for which he underwent a 
pancreas biopsy and was diagnosed with cellular as well as 
antibody-mediated rejection. He was treated with five doses of 
ATG, IV steroids and an increase in immunosuppression to full 
dose Myfortic and tacrolimus. Following an initial decline in 
amylase and lipase, a second increase was noted, which prompted 
a second pancreas biopsy, which showed signs of treated cellular 
rejection, but persistent C4D deposition. Following this, he 
underwent five plasmapheresis sessions and received IVIG as 
well. Several class II antibodies were detected and based on 
allele typing, he has DQ5 (DQB1*501) and DQ8 (0301). His DSA 
levels declined after above treatments and have stayed stable. 
His BK viruria has increased exponentially after getting all of 
these treatments; had transient mild viremia that is now 
resolved. No rituximab.  
 His renal function throughout has remained stable with 
creatinine  
 in 0.9-1 range and no proteinuria whatsoever.  
 He was noted to have osteomyelitis of his foot recently for 
which he was being treated with oxacillin. He was transitioned 
to unasyn given findings of elevated LFTs. LFTs has since 
improved based on ___ records. Patient is now s/p I&D now 
with wound vac.  
 ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  
 
Past Medical History:
# ESRD 
- On HD since ___ 
- s/p Renal/Pancreas transplant ___  
# T1DM 
- Since age of ___, c/b neuropathy, retinopathy, nephropathy 
# HLD  
# HTN
 
Social History:
___
Family History:
Cousin - diabetes  
___ younger siblings - 1 w/ HTN  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=============================
VS: 98.3 157/114-->128/65 106-->82 18 100% RA  
 General: well appearing male in NAD, oriented X 3  
 HEENT: moist mucus membranes  
 CV: rrr, no m/r/g  
 Lungs: ctab, no w/r/r  
 Abdomen: soft, nondistended, nontender  
 Ext: LLE with wound vac in place; left AV fistula with good 
thrill and bruit.  
 Neuro: CNII-XII intact, MAE grossly  
 Access: Right PICC line  

DISCHARGE PHYSICAL EXAM
===============================
VS: Tm98.9 BP110s-120s/50s-60s HR80s-90s RR18 O2 98RA
I/O: MN 120/650
I/O 24H: 740/___
General: well appearing male in NAD, lying in bed, AOx3, 
pleasant and appears comfortable
HEENT: moist mucus membranes  
CV: rrr, no m/r/g  
Lungs: ctab, no w/r/r  
Abdomen: soft, nondistended, nontender, healed surgical scare 
Ext: LLE wrapped with gauze; L wrist fistula; R PICC inserted.
Neuro: AOx3, no focal deficits.  

 
Pertinent Results:
ADMISSION LABS
======================================
___ 08:21PM BLOOD WBC-8.7 RBC-3.82* Hgb-10.8* Hct-34.9* 
MCV-91 MCH-28.3 MCHC-30.9* RDW-14.7 RDWSD-49.3* Plt ___
___ 08:21PM BLOOD Glucose-108* UreaN-17 Creat-0.9 Na-140 
K-4.0 Cl-105 HCO3-30 AnGap-9
___ 08:21PM BLOOD ALT-160* AST-71* LD(LDH)-244 AlkPhos-104 
Amylase-207* TotBili-0.2
___ 08:21PM BLOOD Lipase-292*
___ 08:21PM BLOOD Albumin-3.4* Calcium-9.1 Phos-2.6* 
Mg-1.5*
___ 10:38PM BLOOD Lactate-1.1

INTERMITTENT PERTINENT LABS
======================================
___ 06:02AM BLOOD WBC-6.6 RBC-4.18* Hgb-11.9* Hct-37.9* 
MCV-91 MCH-28.5 MCHC-31.4* RDW-15.0 RDWSD-49.4* Plt ___
___ 06:02AM BLOOD ___ PTT-31.5 ___
___ 06:02AM BLOOD Glucose-94 UreaN-17 Creat-1.0 Na-139 
K-3.6 Cl-104 HCO3-26 AnGap-13
___ 06:02AM BLOOD ALT-392* AST-199* AlkPhos-125 
Amylase-225* TotBili-0.2
___ 06:02AM BLOOD Lipase-234*
___ 06:02AM BLOOD Albumin-3.3* Calcium-9.0 Phos-3.3 Mg-1.6
___ 05:41AM BLOOD calTIBC-242* Ferritn-124 TRF-186*
___ 06:02AM BLOOD tacroFK-5.6
___ 03:51AM BLOOD ALT-1474* AST-1434* AlkPhos-195* 
Amylase-187* TotBili-0.2
___ 05:11AM BLOOD ALT-974* AST-487* AlkPhos-177* 
Amylase-203* TotBili-0.2
___ 04:25AM BLOOD ALT-683* AST-236* AlkPhos-155* 
Amylase-183* TotBili-0.2

DISCHARGE LABS
=======================================
___ 04:45AM BLOOD WBC-6.2 RBC-4.28* Hgb-12.1* Hct-39.1* 
MCV-91 MCH-28.3 MCHC-30.9* RDW-14.9 RDWSD-50.2* Plt ___
___ 04:25AM BLOOD ___ PTT-32.7 ___
___ 04:45AM BLOOD Glucose-98 UreaN-20 Creat-1.0 Na-139 
K-3.8 Cl-105 HCO3-24 AnGap-14
___ 04:45AM BLOOD ALT-545* AST-150* AlkPhos-143* 
Amylase-186* TotBili-0.2
___ 04:45AM BLOOD Lipase-175*
___ 04:45AM BLOOD Albumin-3.6 Calcium-9.7 Phos-3.5 Mg-1.4*
___ 04:25AM BLOOD Vanco-15.5
___ 04:30PM BLOOD Vanco-13.7
___ 04:59PM BLOOD ___
___ 04:59PM BLOOD Smooth-NEGATIVE ANCA-NEGATIVE B
___ 04:45AM BLOOD tacroFK-7.0

DIAGNOSTICS AND IMAGING
========================================
MRI foot ___: 
Osteomyelitis with destructive changes involving the ___ MTP 
joint and with osteo extending across the joint to involve  the 
head of the ___ metatarsal and base of the ___ proximal phalanx. 
   
There is also osteomyelitis to a lesser extent involving the 
ventral aspect of the base of the ___ metatarsal 
Enhancing inflammatory/infectious soft tissue surrounding the 
osseous 
structures of the ___ to ___ toes from the base of  
the metatarsals to the ___ PIP joint. The inflammatory tissue 
extends from the ventral forefoot skin.  

CTA abdomen pelvis ___ wet read:
1. The aorta and its major branches are patent without evidence 
high-grade stenosis or occlusion. Arterial flow to the right 
lower quadrant pancreatic transplant appears normal and is 
better evaluated on abdominal ultrasound from ___. 
2. Left lower quadrant renal transplant shows a normal appearing 
nephrogram, and shows no evidence of hydronephrosis. No 
suspicious renal lesions are identified. Arterial flow to the 
renal transplant appears within normal limits and is also better 
evaluated on recent abdominal ultrasound from ___. 
3. No free air or free fluid in the abdomen or pelvis. No 
evidence of fat stranding or inflammation adjacent to the right 
lower quadrant pancreatic transplant. No acute intra-abdominal 
or intrapelvic process identified. 

Pelvic Angiography ___:
FINDINGS:  
1.  Pancreatic transplant arteriogram demonstrates no definitive 
evidence of pseudoaneurysm or arteriovenous fistula.  The 
transplant artery is patent and there is normal parenchymal 
blush and venous drainage. 
2.  Right common iliac arteriogram demonstrates no evidence of 
stenosis, fistula or vascular malformation. 
  
IMPRESSION:  
No angiographic evidence of transplant pancreatic AV fistula or 
pseudoaneurysm. 

CXR ___:
IMPRESSION:  
In comparison with the study of ___, the right subclavian 
PICC line again crosses the midline.  It would have to be pulled 
back approximately 6 cm to be in the subclavian vein pointing 
downward. 
No acute cardiopulmonary disease. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of type 1 diabetes 
since age ___ leading to end-stage renal disease, s/p 
simultaneous kidney-pancreas transplant ___ c/b cellular 
and antibody mediated rejection s/p ATG, IV steroids and an 
increase in immunosuppression with improvement, who was referred 
in from clinic with elevated lipase/amylase and LFTs. Patient 
was otherwise without physical complaints and stable throughout 
admission.
 
#Pancreas Transplant c/b recurrent lipase/amylase elevation: 
Status post simultaneous kidney and pancreas transplantation on 
___. Note is made of the recent treatment for 
cellular and antibody-mediated rejection ___ for his pancreas 
with steroids, five doses of ATG, five plasmapheresis sessions 
as well as IVIG. Immunosuppressants were also increased and he 
is now on prednisone, tacrolimus and Myfortic. His amylase and 
lipase improved significantly after treatment for his rejection; 
however, they have not normalized and were slightly above his 
baseline upon admission. He was admitted to rule out rejection. 
Transplant surgery was consulted and involved in his care. CTA 
abdomen/pelvis was done, as there was concern for possible 
splenic fistula, and angiography was done showing no fistula. No 
signs of rejection were found, and patient's lab started to 
downtrend. No biopsy was done. He was kept on tacrolimus, 
myfortic, and prednisone. Tacrolimus goal was ___ in the setting 
of BK viremia, his tacrolimus level was checked daily, and 
increased to 5 mg BID while hospitalized. CMV viral load was 
ordered for further evaluation and was undetectable. 

# ___: Mr. ___ presented with ___ 
admission LFTs in the 300s-400s.Infectious disease and 
hepatology were involved in the evaluation and workup. A 
detailed medication and lab review was done, and there appeared 
to be a correlation between ___ and being given 
antibiotics, particularly penicillins. Patient is on antibiotics 
for left foot osteomyeleitis, and he was then changed from 
unasyn to cefazolin/flagyl with concern that unasyn was the 
cause of his ___. At this point his ALT/AST jumped 
from 316/132 to levels in the 1400s. He was changed then to 
vancomycin, and LFTs began to downtrend. Lipase and amylase were 
stable at this time. He was discharged on vancomycin, for a 
total course of treatment for 6 weeks, starting from when he 
started unasyn. Antibiotic stop date is ___. Per hepatology 
recommendations, ___, anti-smooth ab, ANCA, anti-liver kidney, 
and liver cytosol were sent. All were negative except liver 
cytosol, which is pending. 

#Osteomyelitis of left foot: patient presented to ___ on 
___ with L foot pain, with imaging showing osteomyelitis of 
the ___ and ___ left metatarsal head. The patient underwent 
debridement of abscess, and was discharged with a wound vac. 
Podiatry was consulted for wound care and dressing changes. As 
discussed above, antibiotics were adjusted and patient was 
discharged on vancomycin, with stop date ___, for a total 6 
week course (Start date first day with unasyn). He also had a 
PICC placed, requiring ___, for antibiotic administration 
post-discharge.

#Renal Transplant: same time as pancreas transplant(see above). 
Creatinine was stable and wnl during hospitalization, and he 
maintained good urine output. UA was wnl and he had no 
proteinuria. Immunosuppression was continued as above.

 
#Prophylaxis: Patient was kept on valgancyclovir 900 mg daily 
(planned stop date: ___.  
 
# BK viruria with transient low-grade viremia: valgancylovir 
continue as above.  
 
# Normocytic Anemia: baseline H/H 14.6/46.2, hospitalized with 
hb at ___. H/h was stable throughout entire hospitazliation 
and there were no signs of bleeding or hemolysis. Anemia workup 
was c/w acute inflammation in setting of recent osteomyelitis 
and immunosuppression. CBC was trended daily.

TRANSITIONAL ISSUES
- ABX: vancomycin 1250 mg IV TID stop date ___
- Do NOT give patient pencillins or cephalosporins as this may 
cause ___, he will need further work up
- Tacrolimus increased from 3 mg po bid to 5 mg po bid
- Trend AST/ALT down, trend lipase/amylase
- Follow tacrolimus levels for goal ___
- Vancomycin level before next ___ dose ___ 
- Weekly CBC, CMP, tacrolimus level, vancomycin level, ESR, CRP, 
amylase, lipase
- CODE: Full
- CONTACT: Patient, HCP Mom, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Tacrolimus 3 mg PO Q12H 
2. ValGANCIclovir 900 mg PO Q24H 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
5. PredniSONE 5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. pentamidine 300 mg inhalation monthly 
8. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
9. Ampicillin-Sulbactam 3 g IV Q6H 
10. Mycophenolate Sodium ___ 360 mg PO QID 

 
Discharge Medications:
1. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN pain 
2. Mycophenolate Sodium ___ 360 mg PO QID 
3. PredniSONE 5 mg PO DAILY 
4. Tacrolimus 5 mg PO Q12H 
RX *tacrolimus 5 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
5. ValGANCIclovir 900 mg PO Q24H 
6. Vancomycin 1250 mg IV Q 8H 
stop date ___ 
RX *vancomycin 10 gram 1250 mg IV three times a day Disp #*12 
Vial Refills:*0
7. Aspirin 81 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. pentamidine 300 mg inhalation monthly 
10. Vitamin D ___ UNIT PO 1X/WEEK (FR) 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
___
Elevated lipase and amylase

SECONDARY DIAGNOSES
T1DM s/p pancreas and kidney transplant
Left foot osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted because the enzymes of your pancreas 
and liver were noticed to be increasing above your baseline 
levels. You otherwise were feeling well. You were evaluated for 
signs of pancreas rejection, and the team found that it is 
unlikely that you are actively rejecting the pancreas. While you 
were hospitalized, your tacrolimus level was monitored and the 
medication dose was increased to 5 mg two times day.

There was no clear cause of the elevation of your liver enzymes, 
but it seems to be related to the antibiotics you were on. You 
were changed to a regimen of vancomycin, and will take this 
antibiotic for a total of 6 weeks from when you first started 
the unasyn, stop date is ___. Do NOT take any 
cephalosporins or pencillins in the future. You should tell 
future medical teams that you are allergic to these medications, 
and the result is you develop elevated liver enzymes. 

You should continue to follow-up with your outpatient foot 
surgeon for treatment of the infection of your foot. You should 
also place the wound vac back on your foot when you return home. 
You should also call your PCP tomorrow and ensure the labs have 
been sent to her office.

If you start to develop abdominal pain, nausea, vomiting, or 
overall worsening of well being, please seek medical attention.

We wish you the best of luck in your health!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___